US07491720B2
(4) Synthesis of (6-((1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-3-yl)amino)pyrazin-2-yl)methanol
To a mixture of 28 mg of 6-((1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-3-yl)amino)pyrazine-2-carboxylic acid and 1 ml of N,N-dimethylformamide was added 84 mg of N,N′-carbonyldiimidazole, followed by stirring at room temperature for 15 hours. Then, 200 μl of an aqueous solution of 20 mg of sodium borohydride was added thereto and the resulting mixture was stirred. Water was added to the reaction mixture, and then the mixture was extracted with ethyl acetate. The resulting ethyl acetate solution was dried over anhydrous magnesium sulfate and filtered, and the filtrate was concentrated. The residue was purified by a silica gel column chromatography (eluent: chloroform to chloroform/methanol=10/1) to give the title compound.

reactant | 6-((1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-3-yl)amino)pyrazine-2-carboxylic acid | 28 mg | C[Si](CCOCN1N=C(C=C1)NC1=CN=CC(=N1)C(=O)O)(C)C | C14H21N5O3Si
reactant | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
reactant | sodium borohydride | 20 mg | [BH4-].[Na+]
solvent | Water | O | H2O
product | (6-((1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-3-yl)amino)pyrazin-2-yl)methanol | C[Si](CCOCN1N=C(C=C1)NC1=CN=CC(=N1)CO)(C)C | C14H23N5O2Si
